US07202238B2
To a solution of 3,5-bis(trifluoromethyl)phenyl-[(3R,7R,8aS)-7-hydroxy-3-(1H-indol-3-ylmethyl)hexahydropyrrolo[1,2-a]pyrazin-2-yl]-methanone (0.54 g) in ethyl acetate (20 mL) was added diisopropylethylamine (2 mL) and methanesulfonyl chloride (0.2 mL). The resulting mixture was stirred overnight at room temperature and concentrated in vacuo. To the residue was added morpholine (4 mL) and the mixture was heated at 95° C. for 4 hours. The excess morpholine was removed in vacuo and the residue purified by preparative HPLC to afford 3,5-bis(trifluoromethyl)phenyl-[(3R,7S,8aS)-3-(1H-indol-3-ylmethyl)-7-(morpholin-4-yl)-hexahydro-pyrrolo[1,2-a]pyrazin-2-yl]-methanone (81 mg). MH+ 581 (compound 6).

reactant | 3,5-bis(trifluoromethyl)phenyl-[(3R,7R,8aS)-7-hydroxy-3-(1H-indol-3-ylmethyl)hexahydropyrrolo[1,2-a]pyrazin-2-yl]-methanone | 0.54 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]2N(C[C@H]1CC1=CNC3=CC=CC=C13)C[C@@H](C2)O)(F)F | C25H23F6N3O2
reactant | diisopropylethylamine | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3,5-bis(trifluoromethyl)phenyl-[(3R,7S,8aS)-3-(1H-indol-3-ylmethyl)-7-(morpholin-4-yl)-hexahydro-pyrrolo[1,2-a]pyrazin-2-yl]-methanone | 81 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]2N(C[C@H]1CC1=CNC3=CC=CC=C13)C[C@H](C2)N2CCOCC2)(F)F | C29H30F6N4O2
